US07271264B2
Add LAH solution (1 mL, 1 M/THF) to a stirred solution of [2-(2-hydroxymethyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (171 mg, 0.34 mmol) in THF (5 mL) at 0° C. Quench the reaction with sat. NaHCO3 and dilute with CH2Cl2. Wash the organic phase with water and brine, dry over MgSO4, filter and concentrate to yield [2-(2-hydroxymethyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanol. Use the crude product without further purification.

reactant | LAH | 1 M, 1 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | [2-(2-hydroxymethyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 0.34 mmol, 171 mg | OCC1=C(C=CC=C1)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C32H33NO4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(2-hydroxymethyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanol | OCC1=C(C=CC=C1)C1=C(C2=CC=C(C=C2C=C1)OC)C(O)C1=CC=C(C=C1)OCCN1CCCCC1 | C32H35NO4
